US09278102B2
N-(2-Methoxyethyl)-3-(3-(4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)phenylcarbamoyl)benzylthio)benzamide
Into a 50-mL round-bottom flask was placed a solution of N-(2-methoxyethyl)-3-(3-(2-(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indole-2-carbonyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)-benzamide (200 mg, 0.23 mmol, 1.00 equiv) in methanol (3.5 mL), and 3.5 mL of a 1.0 N solution of tetrabutylammonium fluoride in THF. The resulting solution was stirred overnight at 80° C. The resulting mixture was concentrated under vacuum. The residue was dissolved in 50 mL of ethyl acetate. The resulting mixture was washed with 3×20 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by HPLC with the following conditions (Waters 2767-3): Column, SunFire Prep C18, 19×150 mm Sum; mobile phase, water with 0.05% TFA and CH3CN (gradient of 49% to 61% CH3CN over 6 min); Detector, Waters 2545 UV Detector 254 and 270 nm. This resulted in 38.1 mg (17%) of N-(2-methoxyethyl)-3-(3-(4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)-phenylcarbamoyl)benzylthio)benzamide as a orange solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.38 (d, J=9 Hz, 1H), 8.01 (d, J=3 Hz, 1H), 7.91-7.87 (m, 2H), 7.78-7.73 (m, 4H), 7.62-7.59 (m, 1H), 7.53-7.51 (m, 1H), 7.47-7.26 (m, 5H), 4.23 (s, 2H), 3.62-3.57 (m, 4H), 3.53 (s, 3H), 3.35-3.34 (m, 2H), 1.98-1.96 (m, 4H), 1.79-1.77 (m, 2H). MS (ES, m/z): 715 [M+H]+.

reactant | N-(2-methoxyethyl)-3-(3-(2-(1-(phenylsulfonyl)-6-(trifluoromethyl)-1H-indole-2-carbonyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)-benzamide | 0.23 mmol, 200 mg, 1.00 equiv | COCCNC(C1=CC(=CC=C1)SCC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C(=O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)S(=O)(=O)C1=CC=CC=C1)=O)=O | C45H41F3N4O6S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methanol | 3.5 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-Methoxyethyl)-3-(3-(4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)phenylcarbamoyl)benzylthio)benzamide | COCCNC(C1=CC(=CC=C1)SCC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F)=O)=O | C39H37F3N4O4S
